### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Connectivity/Subgraph): `w.toSubgraph ≤ G' ↔ w.edgeSet ⊆ G'.edgeSet`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 1]
```diff
@@ -310,6 +310,14 @@ lemma adj_toSubgraph_iff_mem_edges {u v u' v' : V} {p : G.Walk u v} :
     p.toSubgraph.Adj u' v' ↔ s(u', v') ∈ p.edges := by
   rw [← p.mem_edges_toSubgraph, Subgraph.mem_edgeSet]
 
+theorem toSubgraph_le_iff {u v : V} {w : G.Walk u v} (hnil : ¬w.Nil) {G' : G.Subgraph} :
+    w.toSubgraph ≤ G' ↔ w.edgeSet ⊆ G'.edgeSet := by
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: It is possible to generalize this to:
```suggestion
theorem toSubgraph_le_iff {u v : V} {w : G.Walk u v} {G' : G.Subgraph} :
    w.toSubgraph ≤ G' ∨ w.Nil ↔ w.edgeSet ⊆ G'.edgeSet := by
```
Do you think that's a good idea?

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: It's possible and I've considered it before, but I decided against it because I wanted an iff for `w.toSubgraph ≤ G`.
Also the generalization is logically equivalent to the current version plus `w.Nil → w.edgeSet ⊆ G'.edgeSet`, which is easy with `Walk.edges_eq_nil`.
Do you think the generalized version is useful? I can add it separately

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: That's a good point. The current version is okay imo.

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 2]
```diff
@@ -310,6 +310,14 @@ lemma adj_toSubgraph_iff_mem_edges {u v u' v' : V} {p : G.Walk u v} :
     p.toSubgraph.Adj u' v' ↔ s(u', v') ∈ p.edges := by
   rw [← p.mem_edges_toSubgraph, Subgraph.mem_edgeSet]
 
+theorem toSubgraph_le_iff {u v : V} {w : G.Walk u v} (hnil : ¬w.Nil) {G' : G.Subgraph} :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]:
```suggestion
theorem toSubgraph_le_iff {w : G.Walk u v} (hnil : ¬w.Nil) {G' : G.Subgraph} :
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 3]
```diff
@@ -310,6 +310,14 @@ lemma adj_toSubgraph_iff_mem_edges {u v u' v' : V} {p : G.Walk u v} :
...
+    w.toSubgraph ≤ G' ↔ w.edgeSet ⊆ G'.edgeSet := by
+  refine ⟨fun hw e he ↦ Subgraph.edgeSet_mono hw <| w.mem_edges_toSubgraph.mpr he, fun hw ↦ ?_⟩
+  refine ⟨fun v' hv' ↦ ?_, fun u' v' hadj ↦ hw <| w.mem_edges_toSubgraph.mp (hadj : s(_, _) ∈ _)⟩
+  have hsupp := w.mem_verts_toSubgraph.mp hv'
+  have ⟨e, he, hv'e⟩ := mem_support_iff_exists_mem_edges_of_not_nil hnil |>.mp hsupp
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: It looks to me like `rw [mem_verts_toSubgraph, mem_support_iff_exists_mem_edges_of_not_nil hnil] at hsupp` or similar might work (I haven't tested)

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: Is 779144d36f83287ad5787612bbc8d97bdc7a394d what you meant?

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: Yes,exactly

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 4]
```diff
@@ -310,6 +310,14 @@ lemma adj_toSubgraph_iff_mem_edges {u v u' v' : V} {p : G.Walk u v} :
     p.toSubgraph.Adj u' v' ↔ s(u', v') ∈ p.edges := by
   rw [← p.mem_edges_toSubgraph, Subgraph.mem_edgeSet]
 
+theorem toSubgraph_le_iff {w : G.Walk u v} (hnil : ¬w.Nil) {G' : G.Subgraph} :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:313]: Isn't this theorem true for silly reasons for the empty walk?

**Review by b-mehta — COMMENTED** [review]
bors d+

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 4 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:313]: No because an empty walk has no edges so the RHS is true but its subgraph is a single vertex.
So for `Walk.nil v` the statement reduces to `v ∈ G'.verts ↔ True` which is false in general.
A relevant comment above: https://github.com/leanprover-community/mathlib4/pull/33527#discussion_r2673835861
